US07569563B2
2-Methyl-4-(trifluoromethoxy)benzamide
795 mg (3.61 mmol) of 2-methyl-4-(trifluoromethoxy)benzoic acid are heated under reflux with 4 ml (54.8 mmol) of thionyl chloride and one drop of DMF for 30 minutes. After cooling, the reaction solution is slowly added dropwise into an ice-cooled concentrated aqueous ammonia solution. The resulting precipitate is collected by suction filtration, taken up in 30 ml of water and stirred at 60° C. for 1 h. The mixture is allowed to cool and the solid is collected by filtration and dried in vacuo. Yield: 562 mg (71% of theory).

reactant | 2-methyl-4-(trifluoromethoxy)benzoic acid | 3.61 mmol, 795 mg | CC1=C(C(=O)O)C=CC(=C1)OC(F)(F)F | C9H7F3O3
reactant | thionyl chloride | 54.8 mmol, 4 ml | S(=O)(Cl)Cl | Cl2OS
reactant | ammonia | N | H3N
catalyst | DMF | one drop | CN(C)C=O | C3H7NO
product | 2-Methyl-4-(trifluoromethoxy)benzamide | CC1=C(C(=O)N)C=CC(=C1)OC(F)(F)F | C9H8F3NO2
